US07560586B2
N-(2,2-Diphenylethyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxyphenoxy)propylamine hydrochloride salt
A solution of N-(2,2-diphenylethyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxyphenoxy)propylamine (65 mg, 0.11 mmol) in MeOH (5 mL), H2O (1 mL), and 2.5N NaOH (0.5 mL) was heated at 50° C. for 3 h. The reaction was cooled, diluted with H2O, acidified with 3N HCl to pH=4, and extracted with EtOAc. The extracts were dried and the solvent removed. The residue was dissolved in Et2O and treated with 4N HCl in dioxane. The precipatated solid was filtered, washed with Et2O, dried, and concentrated to yield the titled compound (27 mg, 42%). MS (ESI) 569 (M+H+).

reactant | N-(2,2-diphenylethyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxyphenoxy)propylamine | 0.11 mmol, 65 mg | C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC1=CC(=CC=C1)C(=O)OC)C1=CC=CC=C1 | C33H31ClF3NO3
reactant | NaOH | 2.5N, 0.5 mL | [OH-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
solvent | H2O | 1 mL | O | H2O
product | N-(2,2-Diphenylethyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxyphenoxy)propylamine hydrochloride salt | 27 mg, 42% | Cl.C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC1=CC(=CC=C1)C(=O)O)C1=CC=CC=C1 | InChI=1S/C32H29ClF3NO3.ClH/c33-30-26(15-8-17-29(30)32(34,35)36)21-37(18-9-19-40-27-16-7-14-25(20-27)31(38)39)22-28(23-10-3-1-4-11-23)24-12-5-2-6-13-24;/h1-8,10-17,20,28H,9,18-19,21-22H2,(H,38,39);1H
